US04808729
3-(2-n-Propyl-3-methoxy-4-acetylphenoxy)-1-bromopropane
3.15 g (0.01 mole) of 3-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-1-bromopropane was dissolved in 50 ml of dry acetone. To this solution was added 2.75 g (0.02 mole) of anhydrous potassium carbonate and 3 g (0.02 mole) of methyl iodide. After refluxing for four days under an argon atmosphere, the reaction mixture was filtered and the filtrate concentrated on the rotary evaporator. The residue was chromatographed on silica gel eluting with 2% ethyl acetate/toluene to give 3.1 g (94%) of the title compound as an oil.

reactant | 3-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-1-bromopropane | 0.01 mole, 3.15 g | C(CC)C1=C(OCCCBr)C=CC(=C1O)C(C)=O | C14H19BrO3
reactant | potassium carbonate | 0.02 mole, 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.02 mole, 3 g | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(2-n-Propyl-3-methoxy-4-acetylphenoxy)-1-bromopropane | 3.1 g, 94% | C(CC)C1=C(OCCCBr)C=CC(=C1OC)C(C)=O | C15H21BrO3
